.title 4X1_mux
.include cmos_65nm.txt

m13 Sel_bar0 Sel0 0 0 nmos w=100u l=65nm
m15 Sel_bar0 Sel0 vdd vdd pmos w=250u l=65nm
m14 Sel_bar1 Sel1 0 0 nmos w=100u l=65nm
m16 Sel_bar1 Sel1 vdd vdd pmos w=250u l=65nm

m1 I0 Sel0 A vdd pmos w=250u l=65nm
m2 I0 Sel_bar0 A 0 nmos w=100u l=65nm

m3 I1 Sel_bar0 A vdd pmos w=250u l=65nm
m4 I1 Sel0 A 0 nmos w=100u l=65nm

m5 I2 Sel0 C vdd pmos w=250u l=65nm
m6 I2 Sel_bar0 C 0 nmos w=100u l=65nm

m7 I3 Sel_bar0 C vdd pmos w=250u l=65nm
m8 I3 Sel0 C 0 nmos w=100u l=65nm

m9 A Sel1 Vout vdd pmos w=250u l=65nm
m10 A Sel_bar1 Vout 0 nmos w=100u l=65nm

m11 C Sel_bar1 Vout vdd pmos w=250u l=65nm
m12 C Sel1 Vout 0 nmos w=100u l=65nm

vdd vdd 0 1.2 
vSel0 Sel0 0 PULSE(0v 1.2v 0us 0.01us 0.01us 60us 120us)
vSel1 Sel1 0 PULSE(0v 1.2v 0us 0.01us 0.01us 120us 240us)
vI0 I0 0 PULSE(0v 1.2v 0us 0.01us 0.01us 5us 10us)
vI1 I1 0 PULSE(0v 1.2v 0us 0.01us 0.01us 10us 20us)
vI2 I2 0 PULSE(0v 1.2v 0us 0.01us 0.01us 20us 40us)
vI3 I3 0 PULSE(0v 1.2v 0us 0.01us 0.01us 30us 60us)

.tran 1us 300us
.control
set color0 = white 
set color1 = black
set x brushwidth = 1
run
let S0_plot = v(Sel0)
let S1_plot = v(Sel1) +1.5
let I0_plot = v(I0) + 3
let I1_plot = v(I1) + 4.5
let I2_plot = v(I2) + 6
let I3_plot = v(I3) + 7.5
let Vout_plot = v(Vout) + 9
plot Vout_plot S0_plot S1_plot I0_plot I1_plot I2_plot I3_plot
.endc 
.end